US07723538B2
3-(3-Chloro-benzenesulfonylamino)-[4-(tetrazol-5-yl)-phenyl]-benzamide
A microwave vial was charged with a solution of 3-(3-chloro-benzenesulfonylamino)-N-(4-cyano-phenyl)-benzamide (0.46 g, 1.12 mmol) in dimethylformamide (20.0 ml), ammonium chloride (1.11 g, 21 mmol, 18.5 equiv.) and sodium azide (1.31 g, 20 mmol, 18 equiv.) and irradiated in a microwave oven at 155° C. for 75 min. The mixture was diluted with saturated sodium hydrogenocarbonate and the phases were separated. The aqueous phase was washed with ethyl acetate and the organic phases were discarded. The aqueous phase was acidified with HCl (1N) and extracted with ethyl acetate. The combined organic phases were dried over sodium sulfate, filtered and the solvent removed in vacuo. The crude compound was triturated in dichloromethane and the white solid was filtered and dried under high vacuum. The title compound, MS (ISP): m/e=453.3 (M−H) was obtained as a white solid, 0.40 g (80%).

reactant | 3-(3-chloro-benzenesulfonylamino)-N-(4-cyano-phenyl)-benzamide | 1.12 mmol, 0.46 g | ClC=1C=C(C=CC1)S(=O)(=O)NC=1C=C(C(=O)NC2=CC=C(C=C2)C#N)C=CC1 | C20H14ClN3O3S
reactant | ammonium chloride | 21 mmol, 1.11 g, 18.5 equiv. | [Cl-].[NH4+]
reactant | sodium azide | 20 mmol, 1.31 g, 18 equiv. | [N-]=[N+]=[N-].[Na+]
solvent | dimethylformamide | 20.0 ml | CN(C=O)C | C3H7NO
solvent | sodium | [Na] | Na
product | 3-(3-Chloro-benzenesulfonylamino)-[4-(tetrazol-5-yl)-phenyl]-benzamide | ClC=1C=C(C=CC1)S(=O)(=O)NC=1C(=C(C(=O)N)C=CC1)C1=CC=C(C=C1)C1=NN=NN1 | C20H15ClN6O3S
